US04460580
A solution of 15 g of crude N-[2-(4-carbamoyl-3-hydroxyphenoxy)-ethyl]-N-(2-hydroxy-2-phenyl-ethyl)-benzylamine in 150 ml of methanol is hydrogenated under normal conditions, with the addition of 3 g of palladium-on-charcoal catalyst (5%), until the reaction has ceased. The catalyst is filtered off, the solvent is evaporated off and the residue is recrystallised from isopropanol. α-[N-[2-(4-Carbamoyl-3-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol with a melting point of 141°-142° is obtained. The compound forms a hydrochloride with a melting point of 240°-242°.

reactant | N-[2-(4-carbamoyl-3-hydroxyphenoxy)-ethyl]-N-(2-hydroxy-2-phenyl-ethyl)-benzylamine | 15 g | C(N)(=O)C1=C(C=C(OCCN(CC(C2=CC=CC=C2)O)CC2=CC=CC=C2)C=C1)O | C24H26N2O4
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium-on-charcoal | 3 g | [Pd] | Pd
product | α-[N-[2-(4-Carbamoyl-3-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol | C(N)(=O)C1=C(C=C(OCCNCC(C2=CC=CC=C2)O)C=C1)O | C17H20N2O4
